US08207164B2
a) 1-(5-Bromo-2-fluoro-phenyl)-2,2-difluoro-ethanone
A solution of diisopropyl amine (17.77 ml, 126 mmol) in 320 ml THF was cooled to −75° C. and brought under N2 atmosphere. A 1.6 M solution of BuLi in hexane (79 ml, 126 mmol) was added. When the LDA solution had cooled down again, 1-fluoro-4-bromobenzene was added. The reaction temperature was kept below −60° C. After 2.5 h ethyl difluoro acetate (15.60 g, 126 mmol) was added rapidly and after 15 minutes, the reaction mixture was warmed to −40° C. After 15 minutes the mixture was quenched by pouring it on ice-cold 1N HCl. The mixture was extracted with petroleum ether (B.p. 40-60° C.) and the extract was dried with MgSO4.H2O. Chromatography on silica gel with hexane/TBME 9/1->6/1 gave 22.1 g yellow liquid.

reactant | diisopropyl amine | 126 mmol, 17.77 ml | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | [Li]CCCC
reactant | hexane | 126 mmol, 79 ml | CCCCCC | C6H14
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 1-fluoro-4-bromobenzene | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | ethyl difluoro acetate | 126 mmol, 15.60 g | CCOC(=O)C(F)F | C4H6F2O2
solvent | THF | 320 ml | C1CCOC1 | C4H8O
product | 1-(5-Bromo-2-fluoro-phenyl)-2,2-difluoro-ethanone | 22.1 g | BrC=1C=CC(=C(C1)C(C(F)F)=O)F | C8H4BrF3O
